US04166125
2-Oxo-3-[4-(1-oxo-2-isoindolinyl)phenyl]butanoic acid
A mixture of 2-oxo-3-[4-(1-oxo-2-isoindolinyl)phenyl] butanamide (0.30 g) and 10% aqueous sodium hydroxide solution (10 ml) is refluxed for 1 hour. After cooling the reaction mixture is washed with chloroform. The aqueous layer is acidified with diluted hydrochloric acid. The acidified layer is extracted with chloroform and the chloroform layer is washed with water, dried (Na2SO4) and evaporated. The residue is recrystallized from ethyl acetate to give colorless scales (0.23 g, 76%).

reactant | 2-oxo-3-[4-(1-oxo-2-isoindolinyl)phenyl] butanamide | 0.30 g | O=C(C(=O)N)C(C)C1=CC=C(C=C1)N1C(C2=CC=CC=C2C1)=O | C18H16N2O3
reactant | sodium hydroxide | 10 ml | [OH-].[Na+]
product | 2-Oxo-3-[4-(1-oxo-2-isoindolinyl)phenyl]butanoic acid | O=C(C(=O)O)C(C)C1=CC=C(C=C1)N1C(C2=CC=CC=C2C1)=O | C18H15NO4
